US04722929
8-(4-Chloro-2-methoxy-5-methylaminosulfinoy-phenyl)-purin-6-one
Prepared analogously to Example 16 from 6-chloro-(4-chloro-2-methoxy-5-methylaminosulfonyl-phenyl)-purine with 20% potassium hydroxide solution.

reactant | 6-chloro-(4-chloro-2-methoxy-5-methylaminosulfonyl-phenyl)-purine | ClC1=C2NC=NC2=NC(=N1)C1=C(C=C(C(=C1)S(=O)(=O)NC)Cl)OC | C13H11Cl2N5O3S
reactant | potassium hydroxide | [OH-].[K+]
product | 8-(4-Chloro-2-methoxy-5-methylaminosulfinoy-phenyl)-purin-6-one | ClC1=CC(=C(C=C1S(=O)NC)C1=NC2=NC=NC(C2=N1)=O)OC | C13H10ClN5O3S
